US05484933
A solution of 2-imino-3-(3-trifluoromethylphenyl)-5-methylthiazoline (1.29 g, 5.0 mmol) and diethylamine (1.21 g, 16.5 mmol) in N,N-dimethylformamide (10 ml) charged in a reaction flask was reacted with the chlorotrifluoloethylene, which was made to flow into the flask (ca. 0.7 liter/hr), with vigorous stirring at room temperature for 6 hours. After completion of the reaction, the reaction mixture was subjected to a similar post-treatment as described above, which afforded 2-chlorofluoroacetylimino)-3-(3-trifluoromethylphenyl)-5-methylthiazoline (1.19 g, 3.4 mmol, yield 67% ).

reactant | 2-imino-3-(3-trifluoromethylphenyl)-5-methylthiazoline | 5.0 mmol, 1.29 g | N=C1SC(=CN1C1=CC(=CC=C1)C(F)(F)F)C | C11H9F3N2S
reactant | diethylamine | 16.5 mmol, 1.21 g | C(C)NCC | C4H11N
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 3-(3-trifluoromethylphenyl)-5-methylthiazoline | 3.4 mmol, 1.19 g, yield 67% | FC(C=1C=C(C=CC1)N1CSC(=C1)C)(F)F | C11H10F3NS
